US08703758B2
H) N-[(1S)-2-({trans-4-[6-(2-cyclopropylethoxy)-2H-indazol-2-yl]cyclohexyl}oxy)-1-methylethyl]acetamide
To a solution of tert-butyl [(1S)-2-({trans-4-[6-(2-cyclopropylethoxy)-2H-indazol-2-yl]cyclohexyl}oxy)-1-methylethyl]carbamate (1.2 g) in ethyl acetate (30 mL) was added 4M hydrogen chloride/ethyl acetate (10 mL), and the mixture was stirred at room temperature for 5 hr. The reaction mixture was concentrated under reduced pressure, the obtained residue was dissolved in pyridine (10 mL), and acetic anhydride (1 mL) was added thereto at room temperature. The reaction mixture was stirred at room temperature for 3 hr, and concentrated under reduced pressure. The obtained residue was dissolved in ethyl acetate and water, and the solution was extracted with ethyl acetate. The organic layer was washed successively with water, saturated aqueous sodium hydrogen carbonate solution and saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The obtained residue was separated by HPLC (C18, mobile phase: ammonium hydrogen carbonate aqueous solution/acetonitrile), and water was added to the obtained fraction. The mixture was extracted with ethyl acetate, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to give the title compound (153 mg).

reactant | tert-butyl [(1S)-2-({trans-4-[6-(2-cyclopropylethoxy)-2H-indazol-2-yl]cyclohexyl}oxy)-1-methylethyl]carbamate | 1.2 g | C1(CC1)CCOC=1C=CC2=CN(N=C2C1)[C@@H]1CC[C@H](CC1)OC[C@H](C)NC(OC(C)(C)C)=O | C26H39N3O4
reactant | hydrogen chloride ethyl acetate | 4M, 10 mL | Cl.C(C)(=O)OCC
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | N-[(1S)-2-({trans-4-[6-(2-cyclopropylethoxy)-2H-indazol-2-yl]cyclohexyl}oxy)-1-methylethyl]acetamide | 153 mg | C1(CC1)CCOC=1C=CC2=CN(N=C2C1)[C@@H]1CC[C@H](CC1)OC[C@H](C)NC(C)=O | C23H33N3O3
